US07354932B2
To a stirred solution of 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol (41.70 g, 0.255 mol) in CH2Cl2 (300 mL) at 0° C. was added triethylamine (72 mL, 0.517 mol) followed by methanesulfonyl chloride (30 mL, 0.388 mol). The resultant mixture was stirred at room temperature over night. The mixture was poured into water (200 mL) and the phases were separated. The organic phase was washed with brine (2×150 mL), dried (Na2SO4), and concentrated to give 50.87 g of crude methanesulfonic acid 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl ester.

reactant | 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-ol | 0.255 mol, 41.70 g | N1=C2C(=CC=C1)CCCCC2O | C10H13NO
reactant | triethylamine | 0.517 mol, 72 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.388 mol, 30 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 200 mL | O | H2O
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridin-9-yl ester | 50.87 g | N1=C2C(=CC=C1)CCCCC2OS(=O)(=O)C | C11H15NO3S
